US04925849
A mixture of 3-nitroso-2-phenylpyrazolo[1,5-a]pyridine (0.81 g) and zinc powder (0.95 g) in acetic acid (10 ml) was heated under reflux for 2.5 hours. The reaction mixture was poured onto ice-water (100 ml) and neutralized with saturated aqueous sodium bicarbonate solution. Resultant precipitates were collected by filtration, washed with water, and recrystallized from ethyl acetate to give crystals of 3-acetamido-2-phenylpyrazolo[1,5-a]pyridine (304 mg).

reactant | 3-nitroso-2-phenylpyrazolo[1,5-a]pyridine | 0.81 g | N(=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C13H9N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.95 g | [Zn] | Zn
product | 3-acetamido-2-phenylpyrazolo[1,5-a]pyridine | 304 mg | C(C)(=O)NC=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C15H13N3O
